US05817678
Step A: Preparation of Ethyl 1-[2-(2-pyridyl)-2-phenyl-2-hydroxyethyl]piperidine-3(S)-carboxylate
2-(2-pyridyl)-2-phenyl oxirane (prepared following the procedure of Example 11, Step F) (0.106 g, 0.537 mmol) and S-(-)-ethyl nipecotate (0.093 g, 0.591 mmol) in EtOH (0.90 mL) were heated at 50° C. in a sealed tube with stirring for 24 hr. The reaction mixture was dissolved in EtOAc, washed with brine, dried (Na2SO4), filtered, and concentrated to dryness to give the title compound.

reactant | 2-(2-pyridyl)-2-phenyl oxirane | N1=C(C=CC=C1)C1(OC1)C1=CC=CC=C1 | C13H11NO
reactant | EtOH | 0.90 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 1-[2-(2-pyridyl)-2-phenyl-2-hydroxyethyl]piperidine-3(S)-carboxylate | N1=C(C=CC=C1)C(CN1C[C@H](CCC1)C(=O)OCC)(O)C1=CC=CC=C1 | C21H26N2O3
